US07087594B2
In a mixture of 0.4 mL of toluene and 7 mL of a 50% (W/V) aqueous sodium hydroxide solution was suspended 0.54 g of 2-(1-benzothiophen-5-yl)-1-ethanol, followed by adding thereto 1.45 g of 1-(3-chloropropyl)-3-(trityloxy)azetidine oxalate and 0.03 g of tetra-n-butylammonium bromide, and the resulting mixture was refluxed for 7 hours. After the reaction mixture was cooled, water and toluene were added thereto and the organic layer was separated. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; chloroform:methanol=75:1) to obtain 0.59 g of 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-(trityloxy)azetidine as a light-yellow oil.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-(1-benzothiophen-5-yl)-1-ethanol | 0.54 g | S1C=CC2=C1C=CC(=C2)CCO | C10H10OS
reactant | 1-(3-chloropropyl)-3-(trityloxy)azetidine oxalate | 1.45 g | C(C(=O)O)(=O)O.ClCCCN1CC(C1)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | water | O | H2O
solvent | toluene | 0.4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium bromide | 0.03 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-(trityloxy)azetidine | 0.59 g | S1C=CC2=C1C=CC(=C2)CCOCCCN2CC(C2)OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C35H35NO2S
